US07727988B2
5-(2,4-dimethyl-1,3-oxazol-5-yl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E41)
To a solution of 3-[5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde (Prep64, 74 mg, 0.28 mmol) in dichloroethane (2 mL), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 57.4 mg, 0.25 mmol), AcOH (18.5 mg, 0.28 mmol) and NaBH(AcO)3 (65 mg, 0.31 mmol) were added portionwise at 0° C. The mixture was stirred at 0° C. for further 30 minutes. A 1N solution of NaOH was added and the mixture extracted with EtOAc. The organic phase was treated with PS isocyanate resin, filtered and evaporated under vacuum. The crude was purified by flash chromatography (DCM/MeOH/NH4OH 95:5:05) to give the title compound as free base. The free base was dissolved in dissolved in dioxane and treated with 4N HCl in dioxane (1 eq), to give the title compound as a white powder. (38 mg, 24%)

reactant | 3-[5-(2,4-Dimethyl-oxazol-5-yl)-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-yl]-propionaldehyde | 0.28 mmol, 74 mg | CC=1OC(=C(N1)C)C=1C(NC(N(C1)CCC=O)=O)=O | C12H13N3O4
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.25 mmol, 57.4 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.28 mmol, 18.5 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.31 mmol, 65 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | [OH-].[Na+]
reactant | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 5-(2,4-dimethyl-1,3-oxazol-5-yl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.CC=1OC(=C(N1)C)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H25F3N4O3.ClH/c1-14-20(34-15(2)28-14)19-12-31(22(33)29-21(19)32)9-3-8-30-11-18-10-23(18,13-30)16-4-6-17(7-5-16)24(25,26)27;/h4-7,12,18H,3,8-11,13H2,1-2H3,(H,29,32,33);1H/t18-,23+;/m0./s1
